US05278181
Methyl [5-[(4-Fluorophenyl) (Hydroxyimino)Methyl]-1H-Benzimidazol-2-yl]Carbamate
Methyl [5-(4-fluorobenzoyl)-1H-benzimidazol-2-yl]carbamate, (581.6 g, 1.86 mole) (Janssen Pharmaceutica, U.S. Pat. No. 3,657,267, Apr. 18, 1972) was suspended in MeOH (15 L) in which hydroxylamine hydrochloride (508.1 g, 7.32 mole) was dissolved. The mixture was heated at reflux (80 hrs) until a clear solution was obtained and the starting material was no longer detected at TLC. After cooling to room temperature, the mixture was filtered to remove undissolved material, and the solvent was removed under reduced pressure to give a solid residue. This material was suspended in H2O (5 L) and adjusted to pH 12 with conc. NH4OH. The title product that was obtained as a precipitate was collected by filtration, washed with H2O, then dried under reduced pressure at 70° C. for 16 hrs. Yield: 620.8 g. TLC Rf=0.4-0.6 (2nd spot), 0.0 (base line material). Mp:>315° C.; 3405, 1725, 1660-1640, 1600, 835, 760 cm-1, 1H NMR (DMSO-d6): δ 3.78 (s, 3 H, OCH3), 6.70-8.00 (m, 7 H, Ar--H), 11.20 (bs, 1 H, NH), 11.90 (bs, 1 H, OH).

reactant | Methyl [5-(4-fluorobenzoyl)-1H-benzimidazol-2-yl]carbamate | 1.86 mole, 581.6 g | FC1=CC=C(C(=O)C2=CC3=C(NC(=N3)NC(OC)=O)C=C2)C=C1 | C16H12FN3O3
reactant | hydroxylamine hydrochloride | 7.32 mole, 508.1 g | Cl.NO
reactant | NH4OH | [NH4+].[OH-]
solvent | MeOH | 15 L | CO | CH4O
solvent | H2O | 5 L | O | H2O
product | Methyl [5-[(4-Fluorophenyl) (Hydroxyimino)Methyl]-1H-Benzimidazol-2-yl]Carbamate | FC1=CC=C(C=C1)C(C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)=NO | C16H13FN4O3
